US04028344
1-t-Butylazo-1-chloro-1-phenylethane was prepared in 99% crude yield by adding 34.8 grams (0.49 moles) of chlorine to a pentane solution of 92.8 grams (0.49 moles) of acetophenone t-butylhydrazone and 50.5 grams (0.50 moles) of triethylamine at 0° C., filtering off the insoluble triethylamine hydrochloride that forms and evaporating the pentane under reduced pressure. The yield was 109 grams of a yellow liquid.

reactant | chlorine | 0.49 moles, 34.8 grams | ClCl | Cl2
reactant | acetophenone t-butylhydrazone | 0.49 moles, 92.8 grams | C(C)(C)(C)NN=C(C)C1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 0.50 moles, 50.5 grams | C(C)N(CC)CC | C6H15N
solvent | pentane | CCCCC | C5H12
product | 1-t-Butylazo-1-chloro-1-phenylethane | C(C)(C)(C)N=NC(C)(C1=CC=CC=C1)Cl | C12H17ClN2
